US04446151
(E) 1,1-Difluoro-2,5-diamino-4-methylene-pentane, dihydrochloride, crude product
A mixture of 1,1-difluoro-2,5-diphthalimido-4-methylene-pentane (7.77 g, 19 mmoles) prepared as in Step D above, and hydrazine hydrate (38 mL of a 1 M solution in ethanol) is heated for 5 hours at 90° C. After addition of water (30 mL) and concentrated hydrochloric acid (60 mL) heating is continued for one more hour at 90° C. After filtration, and evaporation to dryness, the residue is dissolved in water, and the remaining phthalhydrazide is elimated by filtration. Concentration under vacuum affords an oil which is used without further purification.

reactant | 1,1-difluoro-2,5-diphthalimido-4-methylene-pentane | 19 mmoles, 7.77 g | FC(C(CC(CN1C(C=2C(C1=O)=CC=CC2)=O)=C)N2C(C=1C(C2=O)=CC=CC1)=O)F | C22H16F2N2O4
reactant | hydrazine hydrate | O.NN
reactant | water | 30 mL | O | H2O
reactant | hydrochloric acid | 60 mL | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1,1-Difluoro-2,5-diamino-4-methylene-pentane, dihydrochloride | Cl.Cl.FC(C(CC(CN)=C)N)F | InChI=1S/C6H12F2N2.2ClH/c1-4(3-9)2-5(10)6(7)8;;/h5-6H,1-3,9-10H2;2*1H
